US04343811
2-Methyl-2-[3-methyl-1-propyl-2-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride
The above compound was prepared from 2-methyl-2-[3-methyl-1-propyl-2-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid ethylester by hydrolysis with diluted hydrochloric acid at the boiling temperature. After the hydrochloric acid was distilled off in vacuo, the reaction product was recrystallized from acetone.

reactant | 2-methyl-2-[3-methyl-1-propyl-2-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid ethylester | C(C)OC(C(C)(OC=1C=C2C(=C(N(C2=CC1)CCC)C1=CC=NC=C1)C)C)=O | C23H28N2O3
reactant | hydrochloric acid | Cl | ClH
product | 2-Methyl-2-[3-methyl-1-propyl-2-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride | Cl.CC(C(=O)O)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C1=CC=NC=C1)C | InChI=1S/C21H24N2O3.ClH/c1-5-12-23-18-7-6-16(26-21(3,4)20(24)25)13-17(18)14(2)19(23)15-8-10-22-11-9-15;/h6-11,13H,5,12H2,1-4H3,(H,24,25);1H
